US07790720B2
A mixture of 4-(3-chloropropoxy)benzenecarbothioamide ax71 (34.67 mmol, 1 eq, 7.96 g), and 2-chloroacetoacetic acid methyl ester (34.67 mmol, 1 eq, 5.2 g) in methanol is stirred at 70° C. for 2 hours. The reaction mixture is then poured into a sealed tube and stirred at 100° C. for 3 hours. The mixture is taken up in dichloromethane and washed with water then dried over magnesium sulfate. The solvent is removed under reduced pressure to give 11.8 g of methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate i105. The product is used as such in the next step.

reactant | 4-(3-chloropropoxy)benzenecarbothioamide | ClCCCOC1=CC=C(C=C1)C(N)=S | C10H12ClNOS
reactant | 2-chloroacetoacetic acid methyl ester | 34.67 mmol, 5.2 g, 1 eq | COC(C(C(=O)C)Cl)=O | C5H7ClO3
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate | 11.8 g, Yield: 100% | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)OC | C15H16ClNO3S
